US07375087B2
4-({4-[(1E)-3-Carbamoylprop-1-enyl]phenyl}methyl)-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole (32 mg) in N,N-dimethylformamide (1 mL) were added ammonium chloride (8 mg), 1-hydroxybenzotriazole (9 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (15 mg) and triethylamine (21 mg), and the mixture was stirred at room temperature overnight. The insoluble material was removed by filtration, 5 mol/L aqueous sodium hydroxide solution (0.5 mL) was added to the filtrate, and the resulting mixture was stirred at room temperature for 1 hour. The insoluble material was removed by filtration, and the filtrate was purified by preparative reverse phase column chromatography (Shiseido CAPCELL PAK UG120 ODS, 5 μm, 120 Å, 20×50 mm, flow rate 30 mL/minute linear gradient, water/acetonitrile=90/10-10/90) to give the title compound (7 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole | 32 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)\C=C\CC(=O)O)C(C)C | C31H38N2O12
reactant | ammonium chloride | 8 mg | [Cl-].[NH4+]
reactant | 1-hydroxybenzotriazole | 9 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 15 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 21 mg | C(C)N(CC)CC | C6H15N
product | 4-({4-[(1E)-3-Carbamoylprop-1-enyl]phenyl}methyl)-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole | 7 mg | C(N)(=O)C/C=C/C1=CC=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C23H31N3O7
